US07429581B2
(ii) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-[2-(2-methoxy-ethoxy)-ethoxymethyl]-1H-pyrazole-3-carboxylic acid
To a solution of 130 mg 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-[2-(2-methoxy-ethoxy)-ethoxymethyl]-1H-pyrazole-3-carboxylic acid ethyl ester in 5 ml THF and 5 ml of water 3 ml of a 1M NaOH were added and the reaction mixture was stirred for 3 h at RT. Then the mixture was acidified with half concentrated hydrochloric acid to pH 3 and the precipitate collected by filtration and washed with 10 ml water. The product was obtained as a white solid which was dried under reduced pressure.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-[2-(2-methoxy-ethoxy)-ethoxymethyl]-1H-pyrazole-3-carboxylic acid ethyl ester | 130 mg | C(C)OC(=O)C1=NN(C(=C1)COCCOCCOC)CC1=NOC(=C1)C=1SC(=CC1)Cl | C20H24ClN3O6S
reactant | NaOH | 1M | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-[2-(2-methoxy-ethoxy)-ethoxymethyl]-1H-pyrazole-3-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1N=C(C=C1COCCOCCOC)C(=O)O | C18H20ClN3O6S
